US07902219B2
300 mg of [6-(1-hydroxy-1-methylethyl)imidazo[1,2-a]pyridin-2-yl](phenyl)methanone hydrobromide (1:1) are taken up in a mixture of 100 mL of dichloromethane and 30 mL of saturated sodium bicarbonate solution. The organic phase is separated out by settling, dried and concentrated to dryness to give 190 mg of [6-(1-hydroxy-1-methylethyl)imidazo[1,2-a]pyridin-2-yl] (phenyl)methanone, which is dissolved in 5 mL of xylene and refluxed for 2 hours, after addition of 6.5 mg of para-toluenesulfonic acid. After 16 hours at 20° C. and evaporation of the solvent, the residue is chromatographed on a cartridge of 6 g of silica, eluting with a 95/5 mixture of dichloromethane and methanol. The fractions containing the expected product are evaporated to dryness and the residue is triturated in ethyl ether to give 60 mg of (6-isopropenylimidazo[1,2-a]pyridin-2-yl)(phenyl)methanone in the form of a pale yellow solid.

reactant | [6-(1-hydroxy-1-methylethyl)imidazo[1,2-a]pyridin-2-yl](phenyl)methanone hydrobromide | 300 mg | Br.OC(C)(C)C=1C=CC=2N(C1)C=C(N2)C(=O)C2=CC=CC=C2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | 30 mL | C([O-])(O)=O.[Na+]
product | [6-(1-hydroxy-1-methylethyl)imidazo[1,2-a]pyridin-2-yl] (phenyl)methanone | 190 mg | OC(C)(C)C=1C=CC=2N(C1)C=C(N2)C(=O)C2=CC=CC=C2 | C17H16N2O2
